* C:\users\eva\Desktop\Documents\ITMO\3_course\EDCS\lab7\task1.asc
* Generated by LTspice 26.0.1 for Windows.
D1 N002 N003 MBRS360
C1 N003 0 22µ
R1 N003 0 24
M2 N002 P001 0 0 Si4800DY
R2 P001 N004 20
V1 N004 0 PULSE(0 5 0 5n 5n 8.33u 20u)
V2 N001 0 7
L1 N001 N002 341µ Rser=1m
.model D D
.lib C:\users\eva\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\eva\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10m uic
.backanno
.end
