* C:\users\eva\Desktop\Documents\ITMO\3_course\EDCS\lab8\task1.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 N002 100
Rn N001 N003 10
Q1 N002 N002 N004 0 2N3904
Q2 N003 N002 N005 0 2N3904
Rэ1 N004 0 100
Rэ2 N005 0 100
V1 N001 0 12
.model NPN NPN
.model PNP PNP
.lib C:\users\eva\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc V1 0 150 0.1
.backanno
.end
