* C:\users\eva\Documents\ITMO\3_course\EDCS\lab1\Lspice\t2.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N006 N001 N004 N007 N002 AD795 ;§pnba In+)In-)V+)V-)OUT
R1 N001 N005 5k
R2 N002 N001 10k
R3 N006 N008 5k
R4 N006 0 10k
R5 N001 N003 5k
R6 N006 N009 5k
V1 N009 0 0
V2 N005 0 SINE(0 0.1 1k)
V3 N004 0 12
V4 0 N007 12
V5 N008 0 1
V6 N003 0 2
.tran 0.02
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\eva\AppData\Local\LTspice\lib\sym\OpAmps\AD795.asy)
.lib ADI1.lib
.backanno
.end
